US08580762B2
ethyl 3-(3-(cyclobutyl(((3aR,4R,6R,6aS)-6-(4-((2,4-dimethoxybenzyl)amino)-7H-pyrrolo[2,3-d]pyrimidin-7-yl)-2,2-dimethyltetrahydro-3aH-cyclopenta[d][1,3]dioxol-4-yl)methyl)amino)cyclobutyl)propanoate
Ethyl 3-(3-((((3aR,4R,6R,6aS)-6-(4-((2,4-dimethoxybenzyl)amino)-7H-pyrrolo[2,3-d]pyrimidin-7-yl)-2,2-dimethyltetrahydro-3aH-cyclopenta[d][1,3]dioxol-4-yl)methyl)amino)cyclobutyl)propanoate (0.84 g, 1.4 mmol) was taken up in methanol (10 ml) and Sodium cyanoborohydride (0.087 g, 1.4 mmol) was added. The pH was adjusted to ca. 6 using a 10% solution of AcOH in MeOH, then Cyclobutanone (0.15 ml, 2.1 mmol) added in one portion. The reaction was stirred at RT for 3 days. NaHCO3 (sat'd) added to the reaction mixture which was then extracted (3×) with DCM. The combined organics were dried with MgSO4, filtered and concentrated. The material was used without further purification.

reactant | Ethyl 3-(3-((((3aR,4R,6R,6aS)-6-(4-((2,4-dimethoxybenzyl)amino)-7H-pyrrolo[2,3-d]pyrimidin-7-yl)-2,2-dimethyltetrahydro-3aH-cyclopenta[d][1,3]dioxol-4-yl)methyl)amino)cyclobutyl)propanoate | 1.4 mmol, 0.84 g | COC1=C(CNC=2C3=C(N=CN2)N(C=C3)[C@@H]3C[C@@H]([C@@H]2[C@H]3OC(O2)(C)C)CNC2CC(C2)CCC(=O)OCC)C=CC(=C1)OC | C33H45N5O6
reactant | Sodium cyanoborohydride | 1.4 mmol, 0.087 g | C(#N)[BH3-].[Na+]
reactant | Cyclobutanone | 2.1 mmol, 0.15 ml | C1(CCC1)=O | C4H6O
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | methanol | 10 ml | CO | CH4O
solvent | AcOH | CC(=O)O | C2H4O2
product | ethyl 3-(3-(cyclobutyl(((3aR,4R,6R,6aS)-6-(4-((2,4-dimethoxybenzyl)amino)-7H-pyrrolo[2,3-d]pyrimidin-7-yl)-2,2-dimethyltetrahydro-3aH-cyclopenta[d][1,3]dioxol-4-yl)methyl)amino)cyclobutyl)propanoate | C1(CCC1)N(C1CC(C1)CCC(=O)OCC)C[C@H]1C[C@H]([C@@H]2OC(O[C@@H]21)(C)C)N2C=CC1=C2N=CN=C1NCC1=C(C=C(C=C1)OC)OC | C37H51N5O6
